Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
hydrochlorothiazide / lisinopril / celecoxib / metolazone / 
quinine
 
Attending: ___
 
Chief Complaint:
Neck pain, Left facial pain, Left elbow pain
 
Major Surgical or Invasive Procedure:
2.5 cm superficial laceration on her left midface that was 
reapproximated with nylon interrupted sutures

 
History of Present Illness:
___ female with a history of osteoporosis transferred 
from an outside hospital following a fall. Patient says that she 
slipped in the bathroom and fell and hit her face against the 
tub. Patient was brought to ___ where she received a CT scan 
of her head which showed a C6 nondisplaced fracture and left
maxillary fracture. Patient also sustained injury to her left 
elbow with a left elbow hematoma. Patient was transferred for 
neurosurgical and orthopedic evaluation. Patient also sustained 
a laceration to her left cheek which was sutured at ___ and 
___ received IV Unasyn and a tetanus vaccine. On
presentation, patient is not complaining of headaches, neck 
pain, and is comfortable. Denies shoulder, rib, abdominal, leg 
pain. Patient denies any dizziness, chest pain, shortness of 
breath prior to the fall and believes that the fall was 
completely mechanical. Patient reports mild C-spine TTP at C6; 
+ecchymoses and swelling in left cheek, + 3 cm laceration 
sutured on left
cheek w/o active bleeding. currently in C-collar. CTA 
bilaterally. No abdominal pain. Patient is AO ×3. Neuro exam 
notable for decreased left lip elevation with smile and 
flattened left nasolabial crease, but possibly due to swelling 
vs. CN VII injury; CN otherwise intact. Patient's left arm is in 
sling;
neurovascularly intact left arm. Strength and sensation intact 
in lower extremities bilaterally.
 
Past Medical History:
Past Medical History: Osteoporosis, arthritis, endometriosis

Past Surgical History: endometrial ablation procedure, details
unkown
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
VS: AVSS, see flowsheets
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist. Ecchymosis and
swelling over left face, 3cm linear left cheek laceration,
repaired. 
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 06:00AM BLOOD WBC-8.5 RBC-2.30* Hgb-7.8* Hct-24.5* 
MCV-107* MCH-33.9* MCHC-31.8* RDW-14.8 RDWSD-56.9* Plt ___
___ 04:05PM BLOOD WBC-15.2* RBC-2.72* Hgb-9.3* Hct-28.1* 
MCV-103* MCH-34.2* MCHC-33.1 RDW-14.6 RDWSD-54.2* Plt ___
___ 10:50AM BLOOD WBC-21.3* RBC-2.85* Hgb-9.7* Hct-29.6* 
MCV-104* MCH-34.0* MCHC-32.8 RDW-14.5 RDWSD-54.1* Plt ___
___ 06:00AM BLOOD Neuts-82.8* Lymphs-7.5* Monos-8.8 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-7.00* AbsLymp-0.63* 
AbsMono-0.74 AbsEos-0.02* AbsBaso-0.02
___ 04:05PM BLOOD Neuts-89.0* Lymphs-4.4* Monos-6.0 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-13.54* AbsLymp-0.67* 
AbsMono-0.91* AbsEos-0.01* AbsBaso-0.02
___ 10:50AM BLOOD Neuts-92.1* Lymphs-2.8* Monos-4.2* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-19.65* AbsLymp-0.60* 
AbsMono-0.90* AbsEos-0.01* AbsBaso-0.04
___ 10:50AM BLOOD Glucose-119* UreaN-24* Creat-0.7 Na-137 
K-4.3 Cl-100 HCO3-22 AnGap-15
___ 11:33AM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 11:33AM URINE RBC-2 WBC-3 Bacteri-FEW* Yeast-NONE 
Epi-<1

Time Taken Not Noted     Log-In Date/Time: ___ 5:52 pm
      BLOOD CULTURE
   Blood Culture, Routine (Pending): 

___ 11:33 am URINE
   URINE CULTURE (Pending): 
 
Brief Hospital Course:
Ms. ___ is a ___ yo F transferred from ___ after 
sustaining a mechanical fall from standing. She was found to 
have a C6 bilateral lamina fracture, left maxillary fracture, 
left midface laceration, and left elbow hematoma. She was 
transferred for neurosurgical evaluation. Neurosurgery 
recommended non-operative management with hard cervical collar. 
Plastic surgery evaluated the patient for facial laceration and 
maxillary fracture. They recommended non-operative management. 
Facial nerves were assessed and although her left sided smile is 
decreased it is unlikely due to nerve damage and is probably 
related to soft tissue swelling. The patient was admitted for 
leukocytosis of 21; she was afebrile with stable vital signs. 
Urinalysis was concerning for urinary tract infection and she 
was given 2 doses of ciprofloxacin. Blood and urine cultures 
were obtained.

The patient remained alert, oriented, and hemodynamically 
stable. Pain was well controlled on oral analgesics. She was 
given a regular diet with good tolerability. Urine output was 
monitored and adequate. On HD2 lab work showed resolved 
leukocytosis. The patient denied urinary symptoms and therefore 
no antibioitcs were administered. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
3. TraMADol 50 mg PO Q6H:PRN Pain - Severe 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Bacitracin Ointment 1 Appl TP QID facial lacerations  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
end ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*3 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  amLODIPine 5 mg PO DAILY  
7.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
8.  TraMADol 50 mg PO Q6H:PRN Pain - Severe  
9.Rolling Walker, Pediatric
Dx: Gait instability
Px: Good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. C6 bilateral lamina fractures
2. left maxillary fracture
3. 2.5 cm superficial laceration on her left midface 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the Acute Care Surgery Service on ___ 
after sustaining a fall and fractures a bone in your cervical 
spine (neck) as well as your left cheek. You were seen by the 
neurosurgery team who recommended non-operative treatment for 
the fracture. Please continue to wear the hard cervical collar 
for the next 3 weeks. You were seen by the plastic surgery team 
for the left cheek bone fracture. Non-operative management was 
recommended.You had a laceration sutured by the plastic surgery 
team on your left cheek. The fracture will be re-assessed and 
the stiches will be removed in outpatient clinic. 

You were seen and evaluated by the physical and occupational 
therapist who recommend discharge to...

You are now doing better, tolerating a regular diet, and pain is 
controlled.

You are now ready to be discharged to home with the following 
instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs.

Avoid driving or operating heavy machinery while taking pain 
medications.

===================
SINUS PRECAUTIONS:

Certain precautions will assist healing and we ask that you 
faithfully follow these instructions:

 1. Take the prescribed medications as directed.

 2. Do not forcefully spit for several days.

 3. Do not smoke for several days.

 4. Do not use straws for several days.

 5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

 6. Try not to sneeze; it will cause undesired sinus pressure. 
If you must sneeze, keep your mouth open.

 7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

 8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved.

 
Followup Instructions:
___